* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 0.020000042111442042
Fd1_1 0 s1 V1 1.0000021055721022
Gr1_1_1 0 s1 x1_a1 0 -295374727063.41534
Gr2_1_1 0 s1 x2_a1 0 -41372104.49455015
Gr3_re_1_1 0 s1 x3_re_a1 0 362556142.2591921
Gr3_im_1_1 0 s1 x3_im_a1 0 -923929634.6715074
Gr4_1_1 0 s1 x4_a1 0 11910314255.657368
Gr5_re_1_1 0 s1 x5_re_a1 0 4099532.248379538
Gr5_im_1_1 0 s1 x5_im_a1 0 -3049764.918627356
Gr6_re_1_1 0 s1 x6_re_a1 0 2599272.5207535857
Gr6_im_1_1 0 s1 x6_im_a1 0 -1282285.6179815142
Gd1_2 0 s1 p2 0 6.93164916631633e-09
Fd1_2 0 s1 V2 3.465824583158165e-07
Gr1_1_2 0 s1 x1_a2 0 700646832.25986
Gr2_1_2 0 s1 x2_a2 0 -8776207740.330221
Gr3_re_1_2 0 s1 x3_re_a2 0 -2158396301.519946
Gr3_im_1_2 0 s1 x3_im_a2 0 4018364909.13326
Gr4_1_2 0 s1 x4_a2 0 12390044239.704054
Gr5_re_1_2 0 s1 x5_re_a2 0 290525.45574172336
Gr5_im_1_2 0 s1 x5_im_a2 0 230035.5190838145
Gr6_re_1_2 0 s1 x6_re_a2 0 256732.35180217124
Gr6_im_1_2 0 s1 x6_im_a2 0 321051.3427863778
*
* State networks driven by port 1
Cx1_a1 x1_a1 0 1.0
Gx1_a1 0 x1_a1 p1 0 0.07071067811865475
Fx1_a1 0 x1_a1 V1 3.5355339059327378
Rp1_a1 0 x1_a1 2.085777625488791e-12
Cx2_a1 x2_a1 0 1.0
Gx2_a1 0 x2_a1 p1 0 0.07071067811865475
Fx2_a1 0 x2_a1 V1 3.5355339059327378
Rp2_a1 0 x2_a1 5.009691942623884e-12
Cx3_re_a1 x3_re_a1 0 1.0
Gx3_re_a1 0 x3_re_a1 p1 0 0.1414213562373095
Fx3_re_a1 0 x3_re_a1 V1 7.0710678118654755
Rp3_re_re_a1 0 x3_re_a1 2.5600859243052873e-11
Gp3_re_im_a1 0 x3_re_a1 x3_im_a1 0 143834463900.1091
Cx3_im_a1 x3_im_a1 0 1.0
Gp3_im_re_a1 0 x3_im_a1 x3_re_a1 0 -143834463900.1091
Rp3_im_im_a1 0 x3_im_a1 2.5600859243052873e-11
Cx4_a1 x4_a1 0 1.0
Gx4_a1 0 x4_a1 p1 0 0.07071067811865475
Fx4_a1 0 x4_a1 V1 3.5355339059327378
Rp4_a1 0 x4_a1 2.899001802697261e-11
Cx5_re_a1 x5_re_a1 0 1.0
Gx5_re_a1 0 x5_re_a1 p1 0 0.1414213562373095
Fx5_re_a1 0 x5_re_a1 V1 7.0710678118654755
Rp5_re_re_a1 0 x5_re_a1 5.131506439042243e-10
Gp5_re_im_a1 0 x5_re_a1 x5_im_a1 0 22964535372.14065
Cx5_im_a1 x5_im_a1 0 1.0
Gp5_im_re_a1 0 x5_im_a1 x5_re_a1 0 -22964535372.14065
Rp5_im_im_a1 0 x5_im_a1 5.131506439042243e-10
Cx6_re_a1 x6_re_a1 0 1.0
Gx6_re_a1 0 x6_re_a1 p1 0 0.1414213562373095
Fx6_re_a1 0 x6_re_a1 V1 7.0710678118654755
Rp6_re_re_a1 0 x6_re_a1 2.1791337396742474e-09
Gp6_re_im_a1 0 x6_re_a1 x6_im_a1 0 11615969796.620787
Cx6_im_a1 x6_im_a1 0 1.0
Gp6_im_re_a1 0 x6_im_a1 x6_re_a1 0 -11615969796.620787
Rp6_im_im_a1 0 x6_im_a1 2.1791337396742474e-09
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 6.93164916631633e-09
Fd2_1 0 s2 V1 3.465824583158165e-07
Gr1_2_1 0 s2 x1_a1 0 700646832.2598602
Gr2_2_1 0 s2 x2_a1 0 -8776207740.330221
Gr3_re_2_1 0 s2 x3_re_a1 0 -2158396301.519946
Gr3_im_2_1 0 s2 x3_im_a1 0 4018364909.13326
Gr4_2_1 0 s2 x4_a1 0 12390044239.704054
Gr5_re_2_1 0 s2 x5_re_a1 0 290525.45574172254
Gr5_im_2_1 0 s2 x5_im_a1 0 230035.5190838135
Gr6_re_2_1 0 s2 x6_re_a1 0 256732.35180217033
Gr6_im_2_1 0 s2 x6_im_a1 0 321051.3427863768
Gd2_2 0 s2 p2 0 0.02000000112094113
Fd2_2 0 s2 V2 1.0000000560470566
Gr1_2_2 0 s2 x1_a2 0 -5816051.900904156
Gr2_2_2 0 s2 x2_a2 0 -177226925863.84824
Gr3_re_2_2 0 s2 x3_re_a2 0 11491896706.815771
Gr3_im_2_2 0 s2 x3_im_a2 0 -16868007237.22591
Gr4_2_2 0 s2 x4_a2 0 12825429079.178957
Gr5_re_2_2 0 s2 x5_re_a2 0 281962.7891434735
Gr5_im_2_2 0 s2 x5_im_a2 0 238050.82129036103
Gr6_re_2_2 0 s2 x6_re_a2 0 251276.01574149815
Gr6_im_2_2 0 s2 x6_im_a2 0 324950.7638376865
*
* State networks driven by port 2
Cx1_a2 x1_a2 0 1.0
Gx1_a2 0 x1_a2 p2 0 0.07071067811865475
Fx1_a2 0 x1_a2 V2 3.5355339059327378
Rp1_a2 0 x1_a2 2.085777625488791e-12
Cx2_a2 x2_a2 0 1.0
Gx2_a2 0 x2_a2 p2 0 0.07071067811865475
Fx2_a2 0 x2_a2 V2 3.5355339059327378
Rp2_a2 0 x2_a2 5.009691942623884e-12
Cx3_re_a2 x3_re_a2 0 1.0
Gx3_re_a2 0 x3_re_a2 p2 0 0.1414213562373095
Fx3_re_a2 0 x3_re_a2 V2 7.0710678118654755
Rp3_re_re_a2 0 x3_re_a2 2.5600859243052873e-11
Gp3_re_im_a2 0 x3_re_a2 x3_im_a2 0 143834463900.1091
Cx3_im_a2 x3_im_a2 0 1.0
Gp3_im_re_a2 0 x3_im_a2 x3_re_a2 0 -143834463900.1091
Rp3_im_im_a2 0 x3_im_a2 2.5600859243052873e-11
Cx4_a2 x4_a2 0 1.0
Gx4_a2 0 x4_a2 p2 0 0.07071067811865475
Fx4_a2 0 x4_a2 V2 3.5355339059327378
Rp4_a2 0 x4_a2 2.899001802697261e-11
Cx5_re_a2 x5_re_a2 0 1.0
Gx5_re_a2 0 x5_re_a2 p2 0 0.1414213562373095
Fx5_re_a2 0 x5_re_a2 V2 7.0710678118654755
Rp5_re_re_a2 0 x5_re_a2 5.131506439042243e-10
Gp5_re_im_a2 0 x5_re_a2 x5_im_a2 0 22964535372.14065
Cx5_im_a2 x5_im_a2 0 1.0
Gp5_im_re_a2 0 x5_im_a2 x5_re_a2 0 -22964535372.14065
Rp5_im_im_a2 0 x5_im_a2 5.131506439042243e-10
Cx6_re_a2 x6_re_a2 0 1.0
Gx6_re_a2 0 x6_re_a2 p2 0 0.1414213562373095
Fx6_re_a2 0 x6_re_a2 V2 7.0710678118654755
Rp6_re_re_a2 0 x6_re_a2 2.1791337396742474e-09
Gp6_re_im_a2 0 x6_re_a2 x6_im_a2 0 11615969796.620787
Cx6_im_a2 x6_im_a2 0 1.0
Gp6_im_re_a2 0 x6_im_a2 x6_re_a2 0 -11615969796.620787
Rp6_im_im_a2 0 x6_im_a2 2.1791337396742474e-09
.ENDS s_equivalent
