* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 -0.0007789550520286487
Fd1_1 0 s1 V1 -0.038947752601432434
Gr1_1_1 0 s1 x1_a1 0 -26191026887.90145
Gr2_1_1 0 s1 x2_a1 0 -35434262023.43021
Gr3_re_1_1 0 s1 x3_re_a1 0 -1392998524.3965607
Gr3_im_1_1 0 s1 x3_im_a1 0 2016556409.6856785
Gr4_1_1 0 s1 x4_a1 0 -23797896523.99788
Gr5_re_1_1 0 s1 x5_re_a1 0 -1033746173.533426
Gr5_im_1_1 0 s1 x5_im_a1 0 -650335768.2144171
Gr6_re_1_1 0 s1 x6_re_a1 0 -3706365080.104603
Gr6_im_1_1 0 s1 x6_im_a1 0 -3123000677.032598
Gr7_re_1_1 0 s1 x7_re_a1 0 -23198537972.46739
Gr7_im_1_1 0 s1 x7_im_a1 0 -52730105400.28472
Gr8_re_1_1 0 s1 x8_re_a1 0 42466892366.707855
Gr8_im_1_1 0 s1 x8_im_a1 0 154252346395.84335
Gr9_1_1 0 s1 x9_a1 0 1.9298814750289134e-19
Gr10_1_1 0 s1 x10_a1 0 1.058480457410412e-49
Gd1_2 0 s1 p2 0 -0.0008201304748092241
Fd1_2 0 s1 V2 -0.04100652374046121
Gr1_1_2 0 s1 x1_a2 0 -460439363.20048213
Gr2_1_2 0 s1 x2_a2 0 -5827393454.259192
Gr3_re_1_2 0 s1 x3_re_a2 0 -2188852270.704325
Gr3_im_1_2 0 s1 x3_im_a2 0 3742217622.6154165
Gr4_1_2 0 s1 x4_a2 0 3178568058.1873646
Gr5_re_1_2 0 s1 x5_re_a2 0 -252279515.03273147
Gr5_im_1_2 0 s1 x5_im_a2 0 -144528459.27377772
Gr6_re_1_2 0 s1 x6_re_a2 0 -904347870.9998571
Gr6_im_1_2 0 s1 x6_im_a2 0 -722746637.5173846
Gr7_re_1_2 0 s1 x7_re_a2 0 -5763411868.27503
Gr7_im_1_2 0 s1 x7_im_a2 0 -12781148634.436012
Gr8_re_1_2 0 s1 x8_re_a2 0 10577412549.395573
Gr8_im_1_2 0 s1 x8_im_a2 0 37586775805.94657
Gr9_1_2 0 s1 x9_a2 0 4.6689864401359215e-20
Gr10_1_2 0 s1 x10_a2 0 2.560795036764653e-50
*
* State networks driven by port 1
Cx1_a1 x1_a1 0 1.0
Gx1_a1 0 x1_a1 p1 0 0.07071067811865475
Fx1_a1 0 x1_a1 V1 3.5355339059327378
Rp1_a1 0 x1_a1 2.085773166671827e-12
Cx2_a1 x2_a1 0 1.0
Gx2_a1 0 x2_a1 p1 0 0.07071067811865475
Fx2_a1 0 x2_a1 V1 3.5355339059327378
Rp2_a1 0 x2_a1 5.009690850694056e-12
Cx3_re_a1 x3_re_a1 0 1.0
Gx3_re_a1 0 x3_re_a1 p1 0 0.1414213562373095
Fx3_re_a1 0 x3_re_a1 V1 7.0710678118654755
Rp3_re_re_a1 0 x3_re_a1 2.5600871384396378e-11
Gp3_re_im_a1 0 x3_re_a1 x3_im_a1 0 143834434971.71252
Cx3_im_a1 x3_im_a1 0 1.0
Gp3_im_re_a1 0 x3_im_a1 x3_re_a1 0 -143834434971.71252
Rp3_im_im_a1 0 x3_im_a1 2.5600871384396378e-11
Cx4_a1 x4_a1 0 1.0
Gx4_a1 0 x4_a1 p1 0 0.07071067811865475
Fx4_a1 0 x4_a1 V1 3.5355339059327378
Rp4_a1 0 x4_a1 2.8990018009619117e-11
Cx5_re_a1 x5_re_a1 0 1.0
Gx5_re_a1 0 x5_re_a1 p1 0 0.1414213562373095
Fx5_re_a1 0 x5_re_a1 V1 7.0710678118654755
Rp5_re_re_a1 0 x5_re_a1 1.8623802792289578e-09
Gp5_re_im_a1 0 x5_re_a1 x5_im_a1 0 34258481412.421543
Cx5_im_a1 x5_im_a1 0 1.0
Gp5_im_re_a1 0 x5_im_a1 x5_re_a1 0 -34258481412.421543
Rp5_im_im_a1 0 x5_im_a1 1.8623802792289578e-09
Cx6_re_a1 x6_re_a1 0 1.0
Gx6_re_a1 0 x6_re_a1 p1 0 0.1414213562373095
Fx6_re_a1 0 x6_re_a1 V1 7.0710678118654755
Rp6_re_re_a1 0 x6_re_a1 3.6902634701886755e-07
Gp6_re_im_a1 0 x6_re_a1 x6_im_a1 0 26088059533.03942
Cx6_im_a1 x6_im_a1 0 1.0
Gp6_im_re_a1 0 x6_im_a1 x6_re_a1 0 -26088059533.03942
Rp6_im_im_a1 0 x6_im_a1 3.6902634701886755e-07
Cx7_re_a1 x7_re_a1 0 1.0
Gx7_re_a1 0 x7_re_a1 p1 0 0.1414213562373095
Fx7_re_a1 0 x7_re_a1 V1 7.0710678118654755
Rp7_re_re_a1 0 x7_re_a1 6.949113864887333e-08
Gp7_re_im_a1 0 x7_re_a1 x7_im_a1 0 11501488244.320461
Cx7_im_a1 x7_im_a1 0 1.0
Gp7_im_re_a1 0 x7_im_a1 x7_re_a1 0 -11501488244.320461
Rp7_im_im_a1 0 x7_im_a1 6.949113864887333e-08
Cx8_re_a1 x8_re_a1 0 1.0
Gx8_re_a1 0 x8_re_a1 p1 0 0.1414213562373095
Fx8_re_a1 0 x8_re_a1 V1 7.0710678118654755
Rp8_re_re_a1 0 x8_re_a1 3.6994669142219285e-08
Gp8_re_im_a1 0 x8_re_a1 x8_im_a1 0 7333548515.130729
Cx8_im_a1 x8_im_a1 0 1.0
Gp8_im_re_a1 0 x8_im_a1 x8_re_a1 0 -7333548515.130729
Rp8_im_im_a1 0 x8_im_a1 3.6994669142219285e-08
Cx9_a1 x9_a1 0 1.0
Gx9_a1 0 x9_a1 p1 0 0.07071067811865475
Fx9_a1 0 x9_a1 V1 3.5355339059327378
Rp9_a1 0 x9_a1 345135.324099275
Cx10_a1 x10_a1 0 1.0
Gx10_a1 0 x10_a1 p1 0 0.07071067811865475
Fx10_a1 0 x10_a1 V1 3.5355339059327378
Rp10_a1 0 x10_a1 4.660293914924959e+20
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 -0.0008201304748092241
Fd2_1 0 s2 V1 -0.04100652374046121
Gr1_2_1 0 s2 x1_a1 0 -460439363.20048255
Gr2_2_1 0 s2 x2_a1 0 -5827393454.259195
Gr3_re_2_1 0 s2 x3_re_a1 0 -2188852270.704325
Gr3_im_2_1 0 s2 x3_im_a1 0 3742217622.6154165
Gr4_2_1 0 s2 x4_a1 0 3178568058.187361
Gr5_re_2_1 0 s2 x5_re_a1 0 -252279515.03273165
Gr5_im_2_1 0 s2 x5_im_a1 0 -144528459.27377772
Gr6_re_2_1 0 s2 x6_re_a1 0 -904347870.9998573
Gr6_im_2_1 0 s2 x6_im_a1 0 -722746637.5173856
Gr7_re_2_1 0 s2 x7_re_a1 0 -5763411868.275036
Gr7_im_2_1 0 s2 x7_im_a1 0 -12781148634.43602
Gr8_re_2_1 0 s2 x8_re_a1 0 10577412549.395576
Gr8_im_2_1 0 s2 x8_im_a1 0 37586775805.94659
Gr9_2_1 0 s2 x9_a1 0 4.668986440135922e-20
Gr10_2_1 0 s2 x10_a1 0 2.560795036764653e-50
Gd2_2 0 s2 p2 0 -0.0007485539182225836
Fd2_2 0 s2 V2 -0.03742769591112918
Gr1_2_2 0 s2 x1_a2 0 273389332314.40634
Gr2_2_2 0 s2 x2_a2 0 -222946806093.53253
Gr3_re_2_2 0 s2 x3_re_a2 0 9986353360.244667
Gr3_im_2_2 0 s2 x3_im_a2 0 -12950059700.648413
Gr4_2_2 0 s2 x4_a2 0 10505537037.451342
Gr5_re_2_2 0 s2 x5_re_a2 0 -60844050.61112954
Gr5_im_2_2 0 s2 x5_im_a2 0 -29076879.756381337
Gr6_re_2_2 0 s2 x6_re_a2 0 -220114235.42275226
Gr6_im_2_2 0 s2 x6_im_a2 0 -151938023.31756914
Gr7_re_2_2 0 s2 x7_re_a2 0 -1437871489.6334054
Gr7_im_2_2 0 s2 x7_im_a2 0 -2955257839.4468427
Gr8_re_2_2 0 s2 x8_re_a2 0 2646905526.114463
Gr8_im_2_2 0 s2 x8_im_a2 0 8784381831.513004
Gr9_2_2 0 s2 x9_a2 0 1.280702579325782e-18
Gr10_2_2 0 s2 x10_a2 0 7.02425858536676e-49
*
* State networks driven by port 2
Cx1_a2 x1_a2 0 1.0
Gx1_a2 0 x1_a2 p2 0 0.07071067811865475
Fx1_a2 0 x1_a2 V2 3.5355339059327378
Rp1_a2 0 x1_a2 2.085773166671827e-12
Cx2_a2 x2_a2 0 1.0
Gx2_a2 0 x2_a2 p2 0 0.07071067811865475
Fx2_a2 0 x2_a2 V2 3.5355339059327378
Rp2_a2 0 x2_a2 5.009690850694056e-12
Cx3_re_a2 x3_re_a2 0 1.0
Gx3_re_a2 0 x3_re_a2 p2 0 0.1414213562373095
Fx3_re_a2 0 x3_re_a2 V2 7.0710678118654755
Rp3_re_re_a2 0 x3_re_a2 2.5600871384396378e-11
Gp3_re_im_a2 0 x3_re_a2 x3_im_a2 0 143834434971.71252
Cx3_im_a2 x3_im_a2 0 1.0
Gp3_im_re_a2 0 x3_im_a2 x3_re_a2 0 -143834434971.71252
Rp3_im_im_a2 0 x3_im_a2 2.5600871384396378e-11
Cx4_a2 x4_a2 0 1.0
Gx4_a2 0 x4_a2 p2 0 0.07071067811865475
Fx4_a2 0 x4_a2 V2 3.5355339059327378
Rp4_a2 0 x4_a2 2.8990018009619117e-11
Cx5_re_a2 x5_re_a2 0 1.0
Gx5_re_a2 0 x5_re_a2 p2 0 0.1414213562373095
Fx5_re_a2 0 x5_re_a2 V2 7.0710678118654755
Rp5_re_re_a2 0 x5_re_a2 1.8623802792289578e-09
Gp5_re_im_a2 0 x5_re_a2 x5_im_a2 0 34258481412.421543
Cx5_im_a2 x5_im_a2 0 1.0
Gp5_im_re_a2 0 x5_im_a2 x5_re_a2 0 -34258481412.421543
Rp5_im_im_a2 0 x5_im_a2 1.8623802792289578e-09
Cx6_re_a2 x6_re_a2 0 1.0
Gx6_re_a2 0 x6_re_a2 p2 0 0.1414213562373095
Fx6_re_a2 0 x6_re_a2 V2 7.0710678118654755
Rp6_re_re_a2 0 x6_re_a2 3.6902634701886755e-07
Gp6_re_im_a2 0 x6_re_a2 x6_im_a2 0 26088059533.03942
Cx6_im_a2 x6_im_a2 0 1.0
Gp6_im_re_a2 0 x6_im_a2 x6_re_a2 0 -26088059533.03942
Rp6_im_im_a2 0 x6_im_a2 3.6902634701886755e-07
Cx7_re_a2 x7_re_a2 0 1.0
Gx7_re_a2 0 x7_re_a2 p2 0 0.1414213562373095
Fx7_re_a2 0 x7_re_a2 V2 7.0710678118654755
Rp7_re_re_a2 0 x7_re_a2 6.949113864887333e-08
Gp7_re_im_a2 0 x7_re_a2 x7_im_a2 0 11501488244.320461
Cx7_im_a2 x7_im_a2 0 1.0
Gp7_im_re_a2 0 x7_im_a2 x7_re_a2 0 -11501488244.320461
Rp7_im_im_a2 0 x7_im_a2 6.949113864887333e-08
Cx8_re_a2 x8_re_a2 0 1.0
Gx8_re_a2 0 x8_re_a2 p2 0 0.1414213562373095
Fx8_re_a2 0 x8_re_a2 V2 7.0710678118654755
Rp8_re_re_a2 0 x8_re_a2 3.6994669142219285e-08
Gp8_re_im_a2 0 x8_re_a2 x8_im_a2 0 7333548515.130729
Cx8_im_a2 x8_im_a2 0 1.0
Gp8_im_re_a2 0 x8_im_a2 x8_re_a2 0 -7333548515.130729
Rp8_im_im_a2 0 x8_im_a2 3.6994669142219285e-08
Cx9_a2 x9_a2 0 1.0
Gx9_a2 0 x9_a2 p2 0 0.07071067811865475
Fx9_a2 0 x9_a2 V2 3.5355339059327378
Rp9_a2 0 x9_a2 345135.324099275
Cx10_a2 x10_a2 0 1.0
Gx10_a2 0 x10_a2 p2 0 0.07071067811865475
Fx10_a2 0 x10_a2 V2 3.5355339059327378
Rp10_a2 0 x10_a2 4.660293914924959e+20
.ENDS s_equivalent
